US08357717B2
Stage 3: Methyl 4-((benzyl(2-hydroxyethyl)amino)methyl)-1H-imidazole-5-carboxylate
Methyl 4-formyl-1H-imidazole-5-carboxylate (1.68 mmol, 1 equiv.) was taken up in dry THF (10 ml). Dry Na2SO4 (15.53 mmol, 9.2 equiv.) and N-benzylethanolamine (1.99 mmol, 1.18 equiv.) were added, and the mixture was stirred for 1 h at 25° C. under nitrogen. NaBH(OAc)3 (2.36 mmol, 1.4 equiv.) was then added in portions, and the reaction mixture was stirred for 16 h. Then water (5 ml) was added, and the mixture was neutralised with sat. NaHCO3 solution (10 ml). Extraction with DCM (2×20 ml) was carried out, and the combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo. The resulting crude product was purified by column chromatography (silica gel, 5-10% MeOH in DCM), and the desired product was thus obtained in the form of a white solid. Yield: 99%

reactant | Methyl 4-formyl-1H-imidazole-5-carboxylate | 1.68 mmol, 1 equiv. | C(=O)C=1N=CNC1C(=O)OC | C6H6N2O3
reactant | Na2SO4 | 15.53 mmol, 9.2 equiv. | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | N-benzylethanolamine | 1.99 mmol, 1.18 equiv. | C(C1=CC=CC=C1)NCCO | C9H13NO
reactant | NaBH(OAc)3 | 2.36 mmol, 1.4 equiv. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | Methyl 4-((benzyl(2-hydroxyethyl)amino)methyl)-1H-imidazole-5-carboxylate | Yield: 99% | C(C1=CC=CC=C1)N(CCO)CC=1N=CNC1C(=O)OC | C15H19N3O3
